US04410537
5-(2-Formyl-3-hydroxyphenoxy)pentanoic acid (119 mg, 0.5 mM) was dissolved in ethyl acetate (5 ml) and cooled to 0° C. under nitrogen with stirring. Dicyclohexylamine (0.11 ml, 100 mg, 0.55 mM) was then added and the mixture stirred at 0° C. (1/2 hr) under nitrogen. The precipitated solid was then filtered off and washed with ethyl acetate to give dicyclohexylammonium 5-(2-formyl-3-hydroxyphenoxy)pentanoate, 0.25 hydrate, m.p. 114°-115° C.

reactant | 5-(2-Formyl-3-hydroxyphenoxy)pentanoic acid | 0.5 mM, 119 mg | C(=O)C1=C(OCCCCC(=O)O)C=CC=C1O | C12H14O5
reactant | Dicyclohexylamine | 0.55 mM, 0.11 ml, 100 mg | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | dicyclohexylammonium 5-(2-formyl-3-hydroxyphenoxy)pentanoate | C(=O)C1=C(OCCCCC(=O)[O-])C=CC=C1O.C1(CCCCC1)[NH2+]C1CCCCC1 | InChI=1S/C12H23N.C12H14O5/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;13-8-9-10(14)4-3-5-11(9)17-7-2-1-6-12(15)16/h11-13H,1-10H2;3-5,8,14H,1-2,6-7H2,(H,15,16)
